data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_332343_0,[C:1](=[C:2]([N:5]([H:13])[H:14])[N:6]([H:11])[H:12])(/[C:3]([N:7]([H:15])[H:16])=[N:8]/[H:17])[N:4]([H:9])[H:10]>>[C:1](=[C:2](/[C:3]([N:7]([H:15])[H:16])=[N:8]/[H:17])[N:6]([H:11])[H:12])([N:4]([H:9])[H:10])[N:5]([H:13])[H:14],66.13724499998725
MR_453137_0,[C:1]([C:4]1(/[C:3](=[N:2]/[H:8])[N:5]([H:9])[H:10])[C:6]([H:11])=[N:7]1)([H:12])([H:13])[H:14]>>[C:1]([c:4]1[c:3]([N:5]([H:9])[H:10])[n:2]([H:8])[c:6]([H:11])[n:7]1)([H:12])([H:13])[H:14],55.17670249998062
MR_169745_1,[C:1]1([H:11])([H:12])[C:6]([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([C:7]([C:4]([H:19])([H:20])[H:21])=[C:8]([H:22])[H:23])[N:9]1[H:10]>>[C:1]([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])(/[C:6]([C:7]([C:4]([H:19])([H:20])[H:21])=[C:8]([H:22])[H:23])=[N:9]\[H:10])([H:11])[H:12],68.14524499998257
MR_304543_0,[C:1]([N:4](/[C:5]([C:2]([H:12])([H:13])[H:14])=[C:6](\[C:3]([H:15])([H:16])[H:17])[H:8])[H:7])([H:9])([H:10])[H:11]>>[C:1](/[N:4]=[C:5](/[C:2]([H:12])([H:13])[H:14])[C:6]([C:3]([H:15])([H:16])[H:17])([H:7])[H:8])([H:9])([H:10])[H:11],62.57116250000209
MR_47098_1,[C:1](/[C:2]([O:4][H:7])=[N:6]/[N:3]([H:9])[H:10])([O:5][H:8])([H:11])[H:12]>>[C:1](=[C:2](\[O:4][H:7])[N:6]([N:3]([H:9])[H:10])[H:12])(\[O:5][H:8])[H:11],64.67516999996903
MR_396944_2,[C@:1]([N:2]([H:10])[H:11])(/[C:4](=[C:3](/[O:5][H:8])[H:12])[H:13])([N:6][O:7])[H:9]>>[C@@:1]1([N:2]([H:10])[H:11])([H:9])[C@@:3]([O:5][H:8])([H:12])[C@:4]1([N:6]=[O:7])[H:13],59.03520000001223
MR_265889_0,[C:1]([C:4]([C:2]([H:11])([H:12])[H:13])=[N:6][N:3]([O:5][H:7])[H:8])([H:9])([H:10])[H:14]>>[C:1]([C:4]([C:2]([H:11])([H:12])[H:13])(/[N:6]=[N:3]/[O:5][H:7])[H:8])([H:9])([H:10])[H:14],62.63956000000775
MR_438830_0,[C:1]([C:2]([C:4](=[O:8])[H:14])([H:12])[H:13])([C:3](=[O:7])[H:11])([O:5][H:9])[O:6][H:10]>>[C:1]1([O:5][H:9])([O:6][H:10])[C:2]([H:12])([H:13])[C:4]1([O:8][C:3](=[O:7])[H:11])[H:14],73.07676749998024
MR_209121_1,[C:1]([N:2]([N:3]([H:7])[H:8])/[N:6]=[C:5](\[N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:2]=[N:6]/[C:5]([N:3]([H:7])[H:8])([N:4]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14],54.79832000000855
MR_137057_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:4](=[O:7])[H:9])(/[N:6]=[C:5](/[C:3]([H:14])([H:15])[H:16])[H:10])[H:8]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[N:6]\[C:5]([C:3]([H:14])([H:15])[H:16])([C:4](=[O:7])[H:9])[H:10])[H:8],68.89008749995682
MR_358207_0,[C:1]([C:2](=[O:6])[H:12])([C:3]([C:4](=[O:8])[H:14])([O:7][H:10])[H:13])([O:5][H:9])[H:11]>>[C:1]([C:2]([C:4](=[O:8])[H:14])([O:6][H:10])[H:12])([C:3](=[O:7])[H:13])([O:5][H:9])[H:11],58.9166025000263
MR_19831_2,[C:1](=[C:6]([C:5]([C:3]([C:2]([H:14])([H:15])[H:16])=[C:7]([H:17])[H:18])([N:4]([H:8])[H:9])[H:12])[H:13])([H:10])[H:11]>>[C:1]([C:3]([C:2]([H:14])([H:15])[H:16])=[C:7]([H:17])[H:18])(/[C:6](=[C:5](\[N:4]([H:8])[H:9])[H:12])[H:13])([H:10])[H:11],71.47036750000538
MR_476885_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4]([C:5](=[O:9])[H:12])=[O:8])=[O:7])([O:6][H:10])[H:11]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:4]([C:3]([C:5](=[O:9])[H:12])=[O:7])=[O:8])([O:6][H:10])[H:11],46.79581249998847
MR_476395_0,[C:1]([N:3]([N:6]([H:12])[H:13])[H:11])(/[C:4](=[C:5](\[C:2]([H:16])([H:17])[H:18])[O:8][H:10])[O:7][H:9])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[N:3]([N:6]([H:12])[H:13])[C@:4]1([C@@:5]([C:2]([H:16])([H:17])[H:18])([O:8][H:10])[H:11])[O:7][H:9],64.45805499998215
MR_396877_1,[C:1]([C:5]([N:4]([N:7]([H:9])[H:10])[H:8])=[C:6]([C:2]([H:14])([H:17])[H:18])[C:3]([H:15])([H:16])[H:19])([H:11])([H:12])[H:13]>>[C:1](/[C:5](=[N:4]\[H:8])[C:6]([C:2]([H:14])([H:17])[H:18])([C:3]([H:15])([H:16])[H:19])[N:7]([H:9])[H:10])([H:11])([H:12])[H:13],59.020767499977325
MR_95535_0,[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]/[N:4]([H:11])[H:12])([O:5][H:9])([O:6][H:8])[H:10]>>[C:1](=[C:3]([C:2]([H:13])([H:14])[H:15])[N:7]([N:4]([H:11])[H:12])[H:10])([O:5][H:9])[O:6][H:8],71.46283749995305
MR_358158_0,[C:1]([N:4]([C:2]([H:13])([H:15])[H:16])[C:3]([H:14])([H:17])[H:18])([N:5]([C:6]([O:7][H:9])=[O:8])[H:10])([H:11])[H:12]>>[C:1]([N:5]([N:4]([C:2]([H:13])([H:15])[H:16])[C:3]([H:14])([H:17])[H:18])[H:10])([C:6]([O:7][H:9])=[O:8])([H:11])[H:12],64.5258249999894
MR_287310_0,[C:1]1([C:2]([C:7]([O:9][H:11])=[O:10])([N:8]([H:14])[H:15])[H:12])([C:5]([H:18])([H:19])[H:20])[C:3]([C:6]([H:21])([H:22])[H:23])([H:13])[C:4]1([H:16])[H:17]>>[C:1](=[C:2](/[N:8]([H:14])[H:15])[H:12])(\[C:4]([C:3]([C:6]([H:21])([H:22])[H:23])([C:7]([O:9][H:11])=[O:10])[H:13])([H:16])[H:17])[C:5]([H:18])([H:19])[H:20],68.76333249999149
MR_185230_0,[C:1](/[C:4]([C:7]([C:5]([C:2]([H:16])([H:17])[H:19])[C:3]([H:18])([H:20])[H:21])[H:11])=[C:8](\[N:6]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:4]1=[C:7]([H:11])[C:5]([C:2]([H:16])([H:17])[H:19])([C:3]([H:18])([H:20])[H:21])[C@@:8]1([N:6]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15],37.584739999987846
